US06503905B1
To a solution of trifluoro-methanesulfonic acid 3-[1-benzyl-3-(4-diethylcarbamoyl-phenyl)-piperidin-3-yl]-phenyl ester (0.40 g, 0.69 mmol) in DMF (8 mL) was added zinc cyanide (0.057 g, 0.49 mmol) and tetrakis triphenylphosphine palladium (0.16 g, 0.14 mmol). The reaction was stirred under a nitrogen atmosphere at 90° C. for 5 hours. The mixture was cooled to room temperatures and it was diluted with diethyl ether (30 mL). The organic layer was washed with brine (5×10 mL), dried (MgSO4) and concentrated. Purification with hexanes/EtOAc (1:1) afforded 0.28 g of 4-[1-benzyl-3-(3-cyano-phenyl)-piperidin-3-yl]-N,N-diethyl-benzamide.

reactant | trifluoro-methanesulfonic acid 3-[1-benzyl-3-(4-diethylcarbamoyl-phenyl)-piperidin-3-yl]-phenyl ester | 0.69 mmol, 0.40 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC=C(C=C1)C(N(CC)CC)=O)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C30H33F3N2O4S
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
catalyst | zinc cyanide | 0.49 mmol, 0.057 g | [C-]#N.[Zn+2].[C-]#N
product | 4-[1-benzyl-3-(3-cyano-phenyl)-piperidin-3-yl]-N,N-diethyl-benzamide | 0.28 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)C#N)C1=CC=C(C(=O)N(CC)CC)C=C1 | C30H33N3O
